US07932271B2
4-[(1-Benzylpiperidin-4-yl)(4-chlorophenylsulfonyl)methyl]pyridine
A toluene (5 ml) solution of the 4-(4-chlorophenylsulfonylmethyl)pyridine (70 mg, 0.261 mmol) obtained in Referential Example 2,1-benzylpiperidin-4-ol (103 mg, 0.538 mmol) and cyanomethylenetri-n-butylphosphorane (129 mg, 0.538 mol) was heated under reflux for 3 days under an argon atmosphere. After cooling to room temperature, 1-benzylpiperidin-4-ol (103 mg, 0.538 mmol) and cyanomethylenetri-n-butylphosphorane (129 mg, 0.538 mol) were added to the reaction mixture. Under an argon atmosphere, the resulting mixture was heated under reflux for 22 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the methanol:methylene chloride (=1:10) eluate was concentrated under reduced pressure. The residue thus obtained was purified by high performance liquid chromatography (by using a mixed solvent system of water/acetonitrile/formic acid) to give the title compound (40 mg, 35%) as an amorphous substance.

reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | 4-(4-chlorophenylsulfonylmethyl)pyridine | 0.261 mmol, 70 mg | ClC1=CC=C(C=C1)S(=O)(=O)CC1=CC=NC=C1 | C12H10ClNO2S
reactant | cyanomethylenetri-n-butylphosphorane | 0.538 mol, 129 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
reactant | 1-benzylpiperidin-4-ol | 0.538 mmol, 103 mg | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | cyanomethylenetri-n-butylphosphorane | 0.538 mol, 129 mg | C(#N)C=P(CCCC)(CCCC)CCCC | C14H28NP
solvent | methanol | CO | CH4O
product | 4-[(1-Benzylpiperidin-4-yl)(4-chlorophenylsulfonyl)methyl]pyridine | 40 mg, 35% | C(C1=CC=CC=C1)N1CCC(CC1)C(C1=CC=NC=C1)S(=O)(=O)C1=CC=C(C=C1)Cl | C24H25ClN2O2S
